US08445529B2
6-(4-Acetylaminophenyloxy)-2-(aminocarbonylamino)indole-3-carboxamide (Compound No.6-1)
The solution of 2-aminocarbonylamino-6-(4-aminophenyloxy)indole-3-carboxamide (Compound No.5-1, 40 mg, 0.12 mmol), acetic acid (8 μL, 0.14 mmol), N,N-diisopropylethylamine (46 μL, 0.26 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (48 mg, 0.13 mmol) in anhydrous N,N-dimethylformamide (1 mL) was stirred overnight at room temperature. Water (10 mL) was added to the reaction solution, and the precipitated solid was filtered off and washed with water (10 mL). The solid was dried at 40° C. under reduced pressure to give the title compound (21 mg) as a purple solid (46%).

reactant | 2-aminocarbonylamino-6-(4-aminophenyloxy)indole-3-carboxamide | 0.12 mmol, 40 mg | NC(=O)NC=1NC2=CC(=CC=C2C1C(=O)N)OC1=CC=C(C=C1)N | C16H15N5O3
reactant | acetic acid | 0.14 mmol, 8 μL | C(C)(=O)O | C2H4O2
reactant | N,N-diisopropylethylamine | 0.26 mmol, 46 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.13 mmol, 48 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | Water | 10 mL | O | H2O
product | 6-(4-Acetylaminophenyloxy)-2-(aminocarbonylamino)indole-3-carboxamide | 21 mg, 46% | C(C)(=O)NC1=CC=C(C=C1)OC1=CC=C2C(=C(NC2=C1)NC(=O)N)C(=O)N | C18H17N5O4
